US04188325
A solution of 5-carboethoxy-3-methylthiooxindole (1.50 g, 7 mmol) and N-chlorosuccinimide (1.25 g, 9.3 mmol) in methylene chloride (150 ml) was stirred at room temperature for 24 hours. The solvent was removed in vacuo, yielding crude 3-chloro-5-carboethoxy-3-methylthiooxindole and the residue was dissolved in tetrahydrofuran and added to a vigorously stirred slurry of red mercuric oxide (1.53 g, 7 mmol) and boron trifluoride etherate (1.00 g, 7 mmol) in 100 ml of 50 percent aqueous tetrahydrofuran. After stirring at room temperature for 1 hour, the red solution was extracted with chloroform. The organic extracts were dried over anhydrous magnesium sulfate, filtered, evaporated, and the residue was chromatographed on silica gel. Elution with chloroform gave 5-carboethoxyisatin (860 mg, 56%) as a yellow solid, mp 205°-207° (recrystallized from ether), ir (KBr) 3265 (NH), 1765 (ester C=O), 1750 (C=O), and 1700 cm-1 (amide C= O); nmr (DMSO-d6) π -1.00 (1H, b, s, NH), 1.80 (d of d, 1H, J4,6 =2 Hz, J6,7 =9 Hz, H6), 1.90 (d, 1H, J4,6 =2H3, H4), 3.20 (d, 1H, J6,7 =9Hz, H7), 5.65 (q, 2H, CO2CH2CH3), and 8.60 (t, 3H, CO2CH2CH3); mass spectrum m/e obs. 219.0534 (calc. 219.0531).

reactant | 5-carboethoxy-3-methylthiooxindole | 7 mmol, 1.50 g | C(=O)(OCC)C=1C=C2C(C(NC2=CC1)=S)C | C12H13NO2S
reactant | N-chlorosuccinimide | 9.3 mmol, 1.25 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 3-chloro-5-carboethoxy-3-methylthiooxindole | ClC1(C(NC2=CC=C(C=C12)C(=O)OCC)=S)C | C12H12ClNO2S
